US04429155
The procedure described in Example 27 is followed, using a reaction temperature of 250° C. and a catalyst which contains 0.5% by weight of palladium on a mixture of 19.4% by weight of calcium oxide and 80.6% by weight of aluminum oxide, and starting from 2-ethylcyclohexylamine. o-Ethylaniline (boiling point=210° C.) is obtained in a yield of 95% of the theory.

reactant | calcium oxide | [O-2].[Ca+2]
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | 2-ethylcyclohexylamine | C(C)C1C(CCCC1)N | C8H17N
catalyst | palladium | [Pd] | Pd
product | o-Ethylaniline | yield of 95% | C(C)C1=C(N)C=CC=C1 | C8H11N
